US06498125B2
2.0 g (0.0058 mol) of 4-chloro-3-(2-methyl-6-trifluoromethylpyridine-3-carbonyl)-bicyclo[3.2.1]oct-3-en-2-one, 0.07 g of dimethylaminopyridine (0.00058 mol) and 1.61 ml of triethylamine are dissolved in 15 ml of methylene chloride. At 25° C., 0.092 g (0.0064 mol) of 4-chlorothiophenol are added. After 2 hours at 22° C., the reaction mixture is evaporated and purified over silica gel (hexane/ethyl acetate 2:1). Recrystallization (hexane/acetic acid at −25° C.) gives pure 4-(4-chlorophenylsulfanyl)-3-(2-methyl-6-trifluoromethylpyridine-3-carbonyl)bicyclo[3.2.1]oct-3-en-2-one: m.p. 130-131 ° C.

reactant | 4-chloro-3-(2-methyl-6-trifluoromethylpyridine-3-carbonyl)-bicyclo[3.2.1]oct-3-en-2-one | 0.0058 mol, 2.0 g | ClC1=C(C(C2CCC1C2)=O)C(=O)C=2C(=NC(=CC2)C(F)(F)F)C | C16H13ClF3NO2
reactant | dimethylaminopyridine | 0.00058 mol, 0.07 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | triethylamine | 1.61 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chlorothiophenol | 0.0064 mol, 0.092 g | ClC1=CC=C(C=C1)S | C6H5ClS
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-chlorophenylsulfanyl)-3-(2-methyl-6-trifluoromethylpyridine-3-carbonyl)bicyclo[3.2.1]oct-3-en-2-one | ClC1=CC=C(C=C1)SC1=C(C(C2CCC1C2)=O)C(=O)C=2C(=NC(=CC2)C(F)(F)F)C | C22H17ClF3NO2S
